US08003785B2
A solution of 1.2 g (0.0044 mole) of 2,2-difluoro-3-(4-methoxy-benzylamino)-propionic acid ethyl ester) in 4 mL of ethyl acetate was added over 5 minutes to a cooled (0 degrees) mixture of 0.85 g (0.0044 mole) of 2,4-dichloro-5-nitro-pyrimidine, 1.5 g (0.018 mole) of sodium bicarbonate and 10 mL of ethyl acetate. The cooling bath was removed and the mixture stirred for 17 hours at room temperature. Activated charcoal was added and after stirring briefly, the mixture was filtered through a pad of Celite, washing the filter pad with ethyl acetate. The filtrate was concentrated under reduced pressure to give 1.9 g of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(4-methoxy-benzyl)-amino]-2,2-difluoro-propionic acid ethyl ester (IV-291) as a yellow thick oil. This material was used directly in the next step without further purification.

reactant | 2,2-difluoro-3-(4-methoxy-benzylamino)-propionic acid ethyl ester | 0.0044 mole, 1.2 g | C(C)OC(C(CNCC1=CC=C(C=C1)OC)(F)F)=O | C13H17F2NO3
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.0044 mole, 0.85 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | sodium bicarbonate | 0.018 mole, 1.5 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(4-methoxy-benzyl)-amino]-2,2-difluoro-propionic acid ethyl ester | 1.9 g | C(C)OC(C(CN(CC1=CC=C(C=C1)OC)C1=NC(=NC=C1[N+](=O)[O-])Cl)(F)F)=O | C17H17ClF2N4O5
